US07396944B2
Step 2: 5-[1-(4-Morpholin-4-yl-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester
The title compound was prepared in an analogous manner to that described in example 1, step 1 from 1-(4-Morpholin-4-yl-phenyl)-ethylamine and thiophene-2,5-dicarboxylic acid monomethyl ester.

reactant | 1-(4-Morpholin-4-yl-phenyl)-ethylamine | N1(CCOCC1)C1=CC=C(C=C1)C(C)N | C12H18N2O
reactant | thiophene-2,5-dicarboxylic acid monomethyl ester | COC(=O)C=1SC(=CC1)C(=O)O | C7H6O4S
product | 5-[1-(4-Morpholin-4-yl-phenyl)-ethylcarbamoyl]-thiophene-2-carboxylic acid methyl ester | COC(=O)C=1SC(=CC1)C(NC(C)C1=CC=C(C=C1)N1CCOCC1)=O | C19H22N2O4S
